** sch_path: /home/designer/shared/Delta-sigma-adc/xschem/T_gate_switch_tb.sch
**.subckt T_gate_switch_tb Vo
*.iopin Vo
V1 vref_pos GND 0.7
V2 Vin GND PULSE(0 1 0 10n 10n 10u 20u)
V3 vdd GND 1.2
x2 net1 vref_pos Vo GND Vin vdd T_gate
x3 Vin vref_neg Vo GND net1 vdd T_gate
x1 vdd Vin net1 GND inverter
V4 vref_neg GND 0.5
C1 Vo GND 1p m=1
**** begin user architecture code


.control
save all
tran 1u 100u
write T_gate_tb.raw
.endc


 .lib cornerMOSlv.lib mos_tt

**** end user architecture code
**.ends

* expanding   symbol:
*+  /home/designer/shared/IHP-AnalogAcademy/modules/module_3_8_bit_SAR_ADC/part_2_digital_comps/T_gate/schematic/T_gate.sym # of pins=6
** sym_path: /home/designer/shared/IHP-AnalogAcademy/modules/module_3_8_bit_SAR_ADC/part_2_digital_comps/T_gate/schematic/T_gate.sym
** sch_path: /home/designer/shared/IHP-AnalogAcademy/modules/module_3_8_bit_SAR_ADC/part_2_digital_comps/T_gate/schematic/T_gate.sch
.subckt T_gate !Control Vin Vout gnd Control vdd
*.iopin Vout
*.iopin Vin
*.iopin !Control
*.iopin Control
*.iopin gnd
*.iopin vdd
XM1 Vin Control Vout gnd sg13_lv_nmos w=1u l=0.13u ng=1 m=1
XM2 Vout !Control Vin vdd sg13_lv_pmos w=3u l=0.13u ng=1 m=1
.ends


* expanding   symbol:
*+  /home/designer/shared/IHP-AnalogAcademy/modules/module_3_8_bit_SAR_ADC/part_2_digital_comps/bootstrap_switch/schematic/inverter.sym # of pins=4
** sym_path: /home/designer/shared/IHP-AnalogAcademy/modules/module_3_8_bit_SAR_ADC/part_2_digital_comps/bootstrap_switch/schematic/inverter.sym
** sch_path: /home/designer/shared/IHP-AnalogAcademy/modules/module_3_8_bit_SAR_ADC/part_2_digital_comps/bootstrap_switch/schematic/inverter.sch
.subckt inverter vdd vi vo gnd
*.iopin vi
*.iopin vo
*.iopin gnd
*.iopin vdd
XM5 vo vi vdd vdd sg13_lv_pmos w=800n l=130n ng=1 m=1
XM7 vo vi gnd gnd sg13_lv_nmos w=400n l=130n ng=1 m=1
.ends

.GLOBAL GND
.end
