** sch_path: /home/designer/shared/Delta-sigma-adc/xschem/T_gate_tb.sch
**.subckt T_gate_tb
x2 phi1n Vin vo GND phi1 vdd T_gate
V3 vdd GND 1.2
V5 phi1 GND PULSE(0 1.2 0 1n 1n 48.828125n 97.65625n)
V6 phi1n GND PULSE(1.2 0 0 1n 1n 48.828125n 97.65625n)
V2 Vin GND SIN(0 0.1 20k)
C1 vo GND 5p m=1
**** begin user architecture code



.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerHBT.lib hbt_typ
.lib cornerRES.lib res_typ
.lib cornerCAP.lib cap_typ




.control
save all
tran 1u 100u
write T_gate_tb.raw
.endc


**** end user architecture code
**.ends

* expanding   symbol:
*+  /home/designer/shared/IHP-AnalogAcademy/modules/module_3_8_bit_SAR_ADC/part_2_digital_comps/T_gate/schematic/T_gate.sym # of pins=6
** sym_path: /home/designer/shared/IHP-AnalogAcademy/modules/module_3_8_bit_SAR_ADC/part_2_digital_comps/T_gate/schematic/T_gate.sym
** sch_path: /home/designer/shared/IHP-AnalogAcademy/modules/module_3_8_bit_SAR_ADC/part_2_digital_comps/T_gate/schematic/T_gate.sch
.subckt T_gate !Control Vin Vout gnd Control vdd
*.iopin Vout
*.iopin Vin
*.iopin !Control
*.iopin Control
*.iopin gnd
*.iopin vdd
XM1 Vin Control Vout gnd sg13_lv_nmos w=2u l=0.13u ng=1 m=1
XM2 Vout !Control Vin vdd sg13_lv_pmos w=6u l=0.13u ng=2 m=1
.ends

.GLOBAL GND
.end
