** sch_path: /home/designer/shared/Delta-sigma-adc/xschem/T_gate_tb_dc_ileak.sch
**.subckt T_gate_tb_dc_ileak
x2 vdd Vin vo GND GND vdd T_gate
Vin Vin GND 0.6
V3 vdd GND 1.2
vout vo GND 0.6
**** begin user architecture code


.param temp=27
.options savecurrents
.control
save all

* Operating Point Analysis
op
remzerovec
write transmission_gate_tb_dc_Ileak.raw
set appendwrite

* DC Sweep Analysis with Dummy
dc Vin 0 1.2 10m vout 0 1.2 0.6
write transmission_gate_tb_dc_Ileak.raw
set appendwrite

* Off-Leakage Current
let Ileak = i(vout)
plot Ileak

*quit
.endc




.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerHBT.lib hbt_typ
.lib cornerRES.lib res_typ
.lib cornerCAP.lib cap_typ


**** end user architecture code
**.ends

* expanding   symbol:
*+  /home/designer/shared/IHP-AnalogAcademy/modules/module_3_8_bit_SAR_ADC/part_2_digital_comps/T_gate/schematic/T_gate.sym # of pins=6
** sym_path: /home/designer/shared/IHP-AnalogAcademy/modules/module_3_8_bit_SAR_ADC/part_2_digital_comps/T_gate/schematic/T_gate.sym
** sch_path: /home/designer/shared/IHP-AnalogAcademy/modules/module_3_8_bit_SAR_ADC/part_2_digital_comps/T_gate/schematic/T_gate.sch
.subckt T_gate !Control Vin Vout gnd Control vdd
*.iopin Vout
*.iopin Vin
*.iopin !Control
*.iopin Control
*.iopin gnd
*.iopin vdd
XM1 Vin Control Vout gnd sg13_lv_nmos w=1u l=0.13u ng=1 m=1
XM2 Vout !Control Vin vdd sg13_lv_pmos w=3u l=0.13u ng=1 m=1
.ends

.GLOBAL GND
.end
