** sch_path: /home/designer/shared/Delta-sigma-adc/xschem/T_gate_tb_op.sch
**.subckt T_gate_tb_op
v_a v_a GND 0.6
VDD1 VDD GND 1.2
C3 vout_tg_on GND 5p m=1
C4 vout_tg_off GND 5p m=1
x1 GND v_a vout_tg_on GND VDD VDD T_gate
x2 VDD v_a vout_tg_off GND GND VDD T_gate
**** begin user architecture code

.lib cornerMOSlv.lib mos_tt
.lib cornerRES.lib res_typ



.param temp=27
.options savecurrents
.control
save all

show n.x1.xm1.nsg13_lv_nmos
show n.x1.xm2.nsg13_lv_pmos

* Save transistor parameters
save @n.x1.xm1.nsg13_lv_nmos[vth]
save @n.x1.xm1.nsg13_lv_nmos[vgs]
save @n.x1.xm1.nsg13_lv_nmos[vds]
save @n.x1.xm1.nsg13_lv_nmos[vgt]
save @n.x1.xm1.nsg13_lv_nmos[ids]
save @n.x1.xm1.nsg13_lv_nmos[gm]
save @n.x1.xm1.nsg13_lv_nmos[gds]
save @n.x1.xm1.nsg13_lv_nmos[gmb]
save @n.x1.xm1.nsg13_lv_nmos[cgs]
save @n.x1.xm1.nsg13_lv_nmos[cgd]
save @n.x1.xm1.nsg13_lv_nmos[fug]
save @n.x1.xm1.nsg13_lv_nmos[rg]

save @n.x1.xm2.nsg13_lv_pmos[vth]
save @n.x1.xm2.nsg13_lv_pmos[vgs]
save @n.x1.xm2.nsg13_lv_pmos[vds]
save @n.x1.xm2.nsg13_lv_pmos[vgt]
save @n.x1.xm2.nsg13_lv_pmos[ids]
save @n.x1.xm2.nsg13_lv_pmos[gm]
save @n.x1.xm2.nsg13_lv_pmos[gds]
save @n.x1.xm2.nsg13_lv_pmos[gmb]
save @n.x1.xm2.nsg13_lv_pmos[cgs]
save @n.x1.xm2.nsg13_lv_pmos[cgd]
save @n.x1.xm2.nsg13_lv_pmos[fug]
save @n.x1.xm2.nsg13_lv_pmos[rg]

save @n.x2.xm1.nsg13_lv_nmos[vth]
save @n.x2.xm1.nsg13_lv_nmos[vgs]
save @n.x2.xm1.nsg13_lv_nmos[vds]
save @n.x2.xm1.nsg13_lv_nmos[vgt]
save @n.x2.xm1.nsg13_lv_nmos[ids]
save @n.x2.xm1.nsg13_lv_nmos[gm]
save @n.x2.xm1.nsg13_lv_nmos[gds]
save @n.x2.xm1.nsg13_lv_nmos[gmb]
save @n.x2.xm1.nsg13_lv_nmos[cgs]
save @n.x2.xm1.nsg13_lv_nmos[cgd]
save @n.x2.xm1.nsg13_lv_nmos[fug]
save @n.x2.xm1.nsg13_lv_nmos[rg]

save @n.x2.xm2.nsg13_lv_pmos[vth]
save @n.x2.xm2.nsg13_lv_pmos[vgs]
save @n.x2.xm2.nsg13_lv_pmos[vds]
save @n.x2.xm2.nsg13_lv_pmos[vgt]
save @n.x2.xm2.nsg13_lv_pmos[ids]
save @n.x2.xm2.nsg13_lv_pmos[gm]
save @n.x2.xm2.nsg13_lv_pmos[gds]
save @n.x2.xm2.nsg13_lv_pmos[gmb]
save @n.x2.xm2.nsg13_lv_pmos[cgs]
save @n.x2.xm2.nsg13_lv_pmos[cgd]
save @n.x2.xm2.nsg13_lv_pmos[fug]
save @n.x2.xm2.nsg13_lv_pmos[rg]

* Operating Point Analysis
op
remzerovec
write T_gate_tb_op.raw

quit
.endc

**** end user architecture code
**.ends

* expanding   symbol:  T_gate.sym # of pins=6
** sym_path: /home/designer/shared/Delta-sigma-adc/xschem/T_gate.sym
** sch_path: /home/designer/shared/Delta-sigma-adc/xschem/T_gate.sch
.subckt T_gate !Control Vin Vout gnd Control vdd
*.iopin Vout
*.iopin Vin
*.iopin !Control
*.iopin Control
*.iopin gnd
*.iopin vdd
XM1 Vin Control Vout gnd sg13_lv_nmos w=1u l=0.13u ng=1 m=1
XM2 Vout !Control Vin vdd sg13_lv_pmos w=3u l=0.13u ng=1 m=1
.ends

.GLOBAL GND
.GLOBAL VDD
.end
