** sch_path: /home/designer/shared/Delta-sigma-adc/xschem/comparator_tb_ac.sch
**.subckt comparator_tb_ac
C1 v_out V_SS 0.05p m=1
Vin V_in GND dc 0.7 ac 1
VDD V_DD GND 1.2
V_SS V_SS GND 0
I1 V_SS v_out dc 0 ac 0
.save v(v_out)
.save v(v_in)
x1 V_DD v_out v_out V_in V_SS comparator
**** begin user architecture code
 .lib cornerMOSlv.lib mos_tt



.temp 27
.control
option sparse
save all
op
write comparator_tb_ac.raw
set appendwrite

ac dec 101 1k 100MEG
write comparator_tb_ac.raw
plot 20*log10(v_out)

meas ac dcgain MAX vmag(v_out) FROM=10 TO=10k
let f3db = dcgain/sqrt(2)
meas ac fbw WHEN vmag(v_out)=f3db FALL=1
let gainerror=(dcgain-1)/1
print dcgain
print fbw
print gainerror

noise v(v_out) Vin dec 101 1k 100MEG
print onoise_total

.endc


 .include /home/designer/shared/Delta-sigma-adc/xschem/comparator_tb_ac.save

**** end user architecture code
**.ends

* expanding   symbol:  comparator.sym # of pins=5
** sym_path: /home/designer/shared/Delta-sigma-adc/xschem/comparator.sym
** sch_path: /home/designer/shared/Delta-sigma-adc/xschem/comparator.sch
.subckt comparator VDD out inn inp VSS
*.ipin inp
*.ipin inn
*.iopin VDD
*.iopin VSS
*.opin out
XM4 net2 net1 VDD VDD sg13_lv_pmos w=1.5u l=5u ng=1 m=1
XM3 net1 net1 VDD VDD sg13_lv_pmos w=1.5u l=5u ng=1 m=1
XM1 net1 inp net3 VSS sg13_lv_nmos w=1.5u l=5u ng=1 m=1
XM2 net2 inn net3 VSS sg13_lv_nmos w=1.5u l=5u ng=1 m=1
XM7 net4 net4 VDD VDD sg13_lv_pmos w=1.5u l=5u ng=1 m=1
XM8 out net2 VDD VDD sg13_lv_pmos w=1.5u l=5u ng=1 m=1
XM6 net4 net4 VSS VSS sg13_lv_nmos w=2.5u l=5u ng=1 m=1
XM5 net3 net4 VSS VSS sg13_lv_nmos w=1.5u l=5u ng=1 m=1
XM9 out net4 VSS VSS sg13_lv_nmos w=1.5u l=5u ng=1 m=1
.ends

.GLOBAL GND
.end
