** sch_path: /opt/pdks/ihp-sg13g2/libs.tech/xschem/sg13g2_tests_xyce/dc_mos_temp.sch
**.subckt dc_mos_temp
Vgs Vgs GND 0.75
Vds Vds GND 1.2
XM1 net1 Vgs GND GND sg13_lv_nmos w=1.0u l=0.35u ng=1 m=1
Vm1 Vds net1 0
.save i(vm1)
Vm2 Vds net2 0
.save i(vm2)
XM2 net2 Vgs GND GND sg13_hv_nmos w=1.0u l=0.35u ng=1 m=1
Vm3 Vdsp net3 0
.save i(vm3)
Vm4 Vdsp net4 0
.save i(vm4)
XM3 GND Vgsp net3 GND sg13_lv_pmos w=1.0u l=0.35u ng=1 m=1
XM4 GND Vgsp net4 GND sg13_hv_pmos w=1.0u l=0.35u ng=1 m=1
Vgs1 Vgsp GND -0.75
Vds2 Vdsp GND -1.5
**** begin user architecture code







.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt





.param temp=27
.control
save all
dc temp -40 125 1
write mos_temp.raw
wrdata mos_temp.csv I(Vm1) I(Vm2) I(Vm3) I(Vm4)
.endc


**** end user architecture code
**.ends
.GLOBAL GND
.end
