** sch_path: /home/designer/shared/Delta-sigma-adc/xschem/non_overlapped_clocks_tb.sch
**.subckt non_overlapped_clocks_tb
V2 clk GND PULSE(0 1.2 0 1u 1u 10u 1u)
V1 vdd GND 1.2
x1 vdd net2 nclk net1 GND nand_gate
x6 vdd net1 net2 clk GND nand_gate
x3 GND net1 net3 vdd dlygate1_1
x4 GND net2 net4 vdd dlygate1_1
x2 vdd GND clk nclk inv_1
x5 vdd GND net3 phi1 inv_1
x7 vdd GND phi1 phi1n inv_1
x8 vdd GND net4 phi2 inv_1
x9 vdd GND phi2 phi2n inv_1
**** begin user architecture code


.control
save all
tran 10n 30u
meas tran t1 TRIG v(phi2) VAL=0.6 FALl=3 TARG v(phi1) VAL=0.6 RISE = 3
meas tran t2 TRIG v(phi2n) VAL=0.6 RISE=3 TARG v(phi1n) VAL=0.6 RISE = 3
write non_overlapped_clocks_tb.raw
.endc





.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerHBT.lib hbt_typ
.lib cornerRES.lib res_typ
.lib cornerCAP.lib cap_typ
.include /opt/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/spice/sg13g2_stdcell.spice


**** end user architecture code
**.ends

* expanding   symbol:  nand_gate.sym # of pins=5
** sym_path: /home/designer/shared/Delta-sigma-adc/xschem/nand_gate.sym
** sch_path: /home/designer/shared/Delta-sigma-adc/xschem/nand_gate.sch
.subckt nand_gate vdd Vo B A gnd
*.iopin vdd
*.iopin gnd
*.ipin A
*.opin Vo
*.ipin B
XM5 Vo A vdd vdd sg13_lv_pmos w=0.5u l=0.13u ng=1 m=1
XM6 Vo A net1 gnd sg13_lv_nmos w=0.25u l=0.13u ng=1 m=1
XM1 net1 B gnd gnd sg13_lv_nmos w=0.25u l=0.13u ng=1 m=1
XM2 Vo B vdd vdd sg13_lv_pmos w=0.5u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  dlygate1_1.sym # of pins=4
** sym_path: /home/designer/shared/Delta-sigma-adc/xschem/dlygate1_1.sym
** sch_path: /home/designer/shared/Delta-sigma-adc/xschem/dlygate1_1.sch
.subckt dlygate1_1 VSS A Y VDD
*.opin Y
*.ipin A
*.iopin VDD
*.iopin VSS
XMN0 net1 A VSS VSS sg13_lv_nmos w=420.00n l=130.00n ng=1 m=1
XMP0 net1 A VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1 m=1
XMN1 net2 net1 VSS VSS sg13_lv_nmos w=420.00n l=130.00n ng=1 m=1
XMP1 net2 net1 VDD VDD sg13_lv_pmos w=1.00u l=130.00n ng=1 m=1
XMN2 net3 net2 VSS VSS sg13_lv_nmos w=420.00n l=130.00n ng=1 m=1
XMP2 net3 net2 VDD VDD sg13_lv_pmos w=1.00u l=130.00n ng=1 m=1
XMN3 Y net3 VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1 m=1
XMP3 Y net3 VDD VDD sg13_lv_pmos w=1.12u l=130.00n ng=1 m=1
.ends


* expanding   symbol:  inv_1.sym # of pins=4
** sym_path: /home/designer/shared/Delta-sigma-adc/xschem/inv_1.sym
** sch_path: /home/designer/shared/Delta-sigma-adc/xschem/inv_1.sch
.subckt inv_1 VDD VSS A Y
*.opin Y
*.ipin A
*.iopin VDD
*.iopin VSS
XMN0 Y A VSS VSS sg13_lv_nmos w=300.00n l=130.00n ng=1 m=1
XMP0 Y A VDD VDD sg13_lv_pmos w=1.2u l=130.00n ng=1 m=1
.ends

.GLOBAL GND
.end
